US09290467B2
A) [(S)-2-(3-Chloro-4-hydroxy-phenyl)-1-(1-cyano-cyclopropylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester
(S)-2-(tert-butoxycarbonylamino)-3-(3-chloro-4-hydroxyphenyl)propanoic acid (3.86 g, 12.2 mmol, Eq: 1.00) was dissolved in DMF (50 mL). HATU (9.3 g, 24.4 mmol, Eq: 2.00), 1-amino-1-cyclopropanecarbonitrile hydrochloride (1.74 g, 14.7 mmol, Eq: 1.20) and Hunig's Base (3.16 g, 4.27 mL, 24.4 mmol, Eq: 2.00) were added to the obtained suspension. The reaction mixture was stirred at 25° C. for 24 h. The reaction mixture was poured into aqueous 0.1M HCl (300 mL), extracted with dichloromethane (3×125 mL), dried over Na2SO4, filtered and evaporated. The crude material was purified by flash chromatography (silica gel, 80 g, 0% to 65% AcOEt in n-heptane) to yield a white solid (3.13 g; 67%). m/z=378.1 [M−H]−.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-(3-chloro-4-hydroxyphenyl)propanoic acid | 12.2 mmol, 3.86 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)O)Cl | C14H18ClNO5
reactant | HATU | 24.4 mmol, 9.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-amino-1-cyclopropanecarbonitrile hydrochloride | 14.7 mmol, 1.74 g | Cl.NC1(CC1)C#N
reactant | Hunig's Base | 24.4 mmol, 4.27 mL, 3.16 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 0.1M, 300 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [(S)-2-(3-Chloro-4-hydroxy-phenyl)-1-(1-cyano-cyclopropylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC(=C(C=C1)O)Cl)C(NC1(CC1)C#N)=O)=O | C18H22ClN3O4
